US05912246
2-[[4-(4-Fluorophenyl)-1-piperazinyl]methyl]-6-methyl-imidazo[1,2-a]pyridine. Refer to Chart E
A mixture of 2-(chloromethyl)-6-methylimidazo[1,2-a]pyridine (0.302 g), 1-(4-fluorophenyl) piperazine (Aldrich; 0.319 g), triethylamine (Aldrich; 0.26 mL), and ethylene glycol (2 mL) is stirred for 2.25 h at 80-85° C. The cooled mixture is then poured into saturated aq. sodium bicarbonate and extracted several times with dichloromethane. The combined organic layers are washed with brine, dried with MgSO4, and concentrated under reduced pressure. The crude material is chromatographed on silica gel using methanol/dichloromethane/ammonium hydroxide (4/96/0.25) and crystallized from ethyl acetate/hexane to give 0.300 g of the title compound; mp 112-112.5° C.; ms m/z 324; IR (mineral oil) 1511, 804, 1234, 1246, 1345 cm-1 ; 1H NMR (CDCl3) δ2.31, 2.74, 3.15, 3.76, 6.90, 7.46, 7.86.

reactant | 2-(chloromethyl)-6-methylimidazo[1,2-a]pyridine | 0.302 g | ClCC=1N=C2N(C=C(C=C2)C)C1 | C9H9ClN2
reactant | 1-(4-fluorophenyl) piperazine | 0.319 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | triethylamine | 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethylene glycol | 2 mL | C(CO)O | C2H6O2
product | 2-[[4-(4-Fluorophenyl)-1-piperazinyl]methyl]-6-methyl-imidazo[1,2-a]pyridine | 0.300 g | FC1=CC=C(C=C1)N1CCN(CC1)CC=1N=C2N(C=C(C=C2)C)C1 | C19H21FN4
